US06649643B1
Production of 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-(1H-1,2,3,4-tetrazol-5-yl)-2-naphthyl)-1-propanol
A solution of 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthonitrile (1.0 g) and azidotrimethyltin (770 mg) in toluene (10 mL) was refluxed for 48 h. The precipitate was collected by filtration, dissolved in THF-methanol (1:1) and concentrated. The residue was diluted with water and extracted with a mixed solution of ethyl acetate-THF (1:1). The extract was dried and concentrated. The residue was purified by column chromatography (eluent; hexane:THF=1:3) and crystallized from ethyl acetate to give the titled compound (469 mg) as a pale yellow powder.

reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthonitrile | 1.0 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C#N | C37H31N3O
reactant | azidotrimethyltin | 770 mg | N(=[N+]=[N-])[Sn](C)(C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-(1H-1,2,3,4-tetrazol-5-yl)-2-naphthyl)-1-propanol | 469 mg | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)C1=NN=NN1 | C18H18N6O
